US08835428B2
Step 5: Methyl 2-(3-(4-(3-(2,4-difluorophenyl) ureido)phenyl)-1,2,4-oxadiazole-5-carboxamido)-3-methylbutanoate
Methyl 2-(3-(4-aminophenyl)-1,2,4-oxadiazole-5-carboxamido)-3 methylbutanoate and 2,4-difluoro-1-isocyanatobenzene was added to THF and stirred at room temperature overnight. After completion of the reaction, the solvent was evaporated and the crude product so obtained was dissolved in ethyl acetate and washed with water, brine, dried by sodium sulfate and concentrated to give a solid. The solid was re-crystallized from Ethyl acetate: Pet ether and was obtained in a yield of 98.65%; 1H NMR (DMSO-d6) δ: 0.970 (t, 6H C(CH3)2), 2.488 (m, 1H, CHMe2), 3.68 (s, 3H, OCH3), 4.35 (m, 1H, NHCH), 7.082 (m, 1H CH), 7.35 (m, 1H, CH), 7.67 (d, 2H, CH) 8.011 (d, 2H CH), 8.099 (m, 1H, CH), 8.96 (s, 1H, NH), 9.384 (s, 1H, NH), 9.677 (d, 1H, NH); ms (m/z) 474 (M++H).

reactant | Methyl 2-(3-(4-aminophenyl)-1,2,4-oxadiazole-5-carboxamido)-3 methylbutanoate | NC1=CC=C(C=C1)C1=NOC(=N1)C(=O)NC(C(=O)OC)C(C)C | C15H18N4O4
reactant | 2,4-difluoro-1-isocyanatobenzene | FC1=C(C=CC(=C1)F)N=C=O | C7H3F2NO
reactant | THF | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl 2-(3-(4-(3-(2,4-difluorophenyl) ureido)phenyl)-1,2,4-oxadiazole-5-carboxamido)-3-methylbutanoate | yield of 98.65% | FC1=C(C=CC(=C1)F)NC(NC1=CC=C(C=C1)C1=NOC(=N1)C(=O)NC(C(=O)OC)C(C)C)=O | C22H21F2N5O5
